*-----------------------------------------------------------------------------
* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | open collector output
* | | | | | output ground
* | | | | | |
.subckt LM111/UK 1 2 3 4 5 6
*
f1 9 3 v1 1
iee 3 7 dc 100.0E-6
vi1 21 1 dc .45
vi2 22 2 dc .45
q1 9 21 7 qin
q2 8 22 7 qin
q3 9 8 4 qmo
q4 8 8 4 qmi
.model qin PNP(Is=800.0E-18 Bf=833.3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=118.8E-9)
e1 10 6 9 4 1
v1 10 11 dc 0
q5 500 11 6 qoc
S 5 500 3 4 ss
.model ss sw Ron=0.1 Vt=2 Vh=-0.5 Roff=99Meg
.model qoc NPN(Is=800.0E-18 Bf=34.49E3 Cjc=1E-15 Tf=364.6E-12 Tr=79.34E-9)
dp 4 3 dx
rp 3 4 6.122E3
.model dx D(Is=800.0E-18 Rs=1)
*
.ends


*-----------------------------------------------------------------------------
* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | open collector output
* | | | | | output ground
* | | | | | |
.subckt LM311/UK 1 2 3 4 5 6
*
f1 9 3 v1 1
iee 3 7 dc 100.0E-6
vi1 21 1 dc .45
vi2 22 2 dc .45
q1 9 21 7 qin
q2 8 22 7 qin
q3 9 8 4 qmo
q4 8 8 4 qmi
.model qin PNP(Is=800.0E-18 Bf=500)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=124.2E-9)
e1 10 6 9 4 1
v1 10 11 dc 0
q5 500 11 6 qoc
S 5 500 3 4 ss
.model ss sw Ron=0.1 Vt=2 Vh=-0.5 Roff=99Meg
.model qoc NPN(Is=800.0E-18 Bf=206.9E3 Cjc=1E-15 Tf=7.855E-12 Tr=83.83E-9)
dp 4 3 dx
rp 3 4 7.087E3
.model dx D(Is=800.0E-18)
*
.ends


*-----------------------------------------------------------------------------
* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | open collector output
* | | | | | output ground
* | | | | | |
.subckt LM119/UK 1 2 3 4 5 6
*
f1 3 9 v1 1
iee 7 4 dc 100.0E-6
q1 9 2 7 qin
q2 8 1 7 qin
q3 9 8 3 qmo
q4 8 8 3 qmi
.model qin NPN(Is=800.0E-18 Bf=333.3)
.model qmi PNP(Is=800.0E-18 Bf=1002)
.model qmo PNP(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=59.42E-9)
e1 10 6 3 9 1
v1 10 11 dc 0
q5 500 11 6 qoc
S 5 500 3 4 ss
.model ss sw Ron=0.1 Vt=2 Vh=-0.5 Roff=99Meg
.model qoc NPN(Is=800.0E-18 Bf=41.38E3 Cjc=1E-15 Tf=23.91E-12 Tr=24.01E-9)
dp 4 3 dx
rp 3 4 5.556E3
.model dx D(Is=800.0E-18 Rs=1)
*
.ends

*-----------------------------------------------------------------------------
* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | open collector output
* | | | | |
.subckt LM139/UK 1 2 3 4 5
*
f1 9 3 v1 1
iee 3 7 dc 100.0E-6
vi1 21 1 dc .75
vi2 22 2 dc .75
q1 9 21 7 qin
q2 8 22 7 qin
q3 9 8 4 qmo
q4 8 8 4 qmi
.model qin PNP(Is=800.0E-18 Bf=2.000E3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=475.4E-9)
e1 10 4 9 4 1
v1 10 11 dc 0
q5 500 11 4 qoc
S 5 500 3 4 ss
.model ss sw Ron=0.1 Vt=2 Vh=-0.5 Roff=99Meg
.model qoc NPN(Is=800.0E-18 Bf=20.69E3 Cjc=1E-15 Tf=3.540E-9 Tr=472.8E-9)
dp 4 3 dx
rp 3 4 37.50E3
.model dx D(Is=800.0E-18 Rs=1)
*
.ends

